US07429665B2
2-[4-(2-Isopropyl-4-pyridin-4-yl-2H-pyrazol-3-yl)-phenoxymethyl]-quinoline
Following the procedure for the preparation of 2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline but substituting isopropyl hydrazine provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.33 (bs, 2 H), 8.24 (d, J=8.3 Hz, 1 H), 8.08 (d, J=8.3 Hz, 1H), 7.86 (s, 1H) 7.83 (m, 1 H), 7.72 (m 2H), 7.58 (t, J=7.9 Hz, 1H), 7.20 (d, J=8.7 Hz, 2H), 7.15 (d, J=9.1 Hz, 2H) 7.04 (m, 2H), 5.43 (s, 2H), 4.31 (m, 1H), 1.43 (d, J=6.6 Hz), 6H); MS: (M+H m/z=421.2).

reactant | 2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H20N4O
reactant | isopropyl hydrazine | C(C)(C)NN | C3H10N2
product | 2-[4-(2-Isopropyl-4-pyridin-4-yl-2H-pyrazol-3-yl)-phenoxymethyl]-quinoline | C(C)(C)N1N=CC(=C1C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C1=CC=NC=C1 | C27H24N4O
